US07674918B2
Pyridine (14 g, 0.18 Mol) and 4-nitrophenylacetic acid (32 g, 0.18 Mol) were stirred in toluene (100 ml) whilst trimethylacetylchloride (21 g, 0.18 Mol) was added. The toluene was evaporated to yield 4-nitrophenylacetic-trimethylacetic anhydride. 3-Aminophenol (20 g, 0.18 Mol) was stirred in DMF (100 ml) and treated with the mixed anhydride and pyridine (14 g) in dimethylformamide (DMF) dropwise. The solution was diluted with water and the product isolated by filtration and dried (19 g, 39%).

reactant | Pyridine | 0.18 Mol, 14 g | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenylacetic acid | 0.18 Mol, 32 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | trimethylacetylchloride | 0.18 Mol, 21 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-nitrophenylacetic-trimethylacetic anhydride | CC(C(=O)OC(CC1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C13H15NO5
